US04093736
(b) 5-Bromopentyl 2-methoxy-4-chlorophenyl carbinol
Borane in tetrahydrofuran (240 ml. of 1M) was added over a period of 15 minutes to a solution of 72 g. of 5-(2-methoxy-4-chlorobenzoyl)pentyl bromide in 240 ml. of tetrahydrofuran. The mixture was stirred 45 minutes in an ice bath, and then 300 ml. of 2N hydrochloric acid was cautiously added. The mixture was concentrated to a volume of 500 ml., extracted with ether, the ether extracts washed with sodium bicarbonate and dried over anhydrous magnesium sulfate. Evaporation of the solvent afforded 74 g. of oil used in the next reaction without further purification.

reactant | Borane | B | BH3
reactant | 5-(2-methoxy-4-chlorobenzoyl)pentyl bromide | COC1=C(C(=O)CCCCCBr)C=CC(=C1)Cl | C13H16BrClO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 1M, 240 ml | O1CCCC1 | C4H8O
product | 5-Bromopentyl 2-methoxy-4-chlorophenyl carbinol | BrCCCCCC(O)C1=C(C=C(C=C1)Cl)OC | C13H18BrClO2
